US07138425B2
b) 2-[2-Methyl-5-(5-phenylbenzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-amino-4-methylphenyl)-4-phenylbenzoxazole (167 mg, 0.9 mmol) and 1,2,4-benzenetricarboxylic anhydride (250 mg, 0.9 mmol) the title compound was obtained, 340 mg (82%). 1H NMR (DMSO) δ 8.45(dd, 1H), 8.34(d, 2H), 8.26(dd, 1H), 8.13(d, 1H), 8.05(d, 1H), 7.85(d, 1H), 7.73(m, 4H), 7.50(t, 1H), 7.39(t, 1H), 2.28(s, 3H). MS 473 m/z (M−H)−.

reactant | 2-(3-amino-4-methylphenyl)-4-phenylbenzoxazole | 0.9 mmol, 167 mg | NC=1C=C(C=CC1C)C=1OC2=C(N1)C(=CC=C2)C2=CC=CC=C2 | C20H16N2O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.9 mmol, 250 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methyl-5-(5-phenylbenzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid | CC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H18N2O5
